US07973051B2
iv) 4,5-Diethyl-thiazol-2-ylamine
The above prepared 4-ethyl-5-ethynyl-thiazol-2-ylamine (0.255 g, 1.675 mmol) was dissolved in 8 mL of ethyl acetate and hydrogenated over 0.125 g of Pd on charcoal (10%) at atmospheric pressure and ambient temperature over night. Filtration over a pad of Ceite and evaporation off all solvents, followed by flash chromatography (SiO2, hexane/ethyl acetate=6/4), yielded 0.184 g of the title product as light yellow solid.

reactant | 4-ethyl-5-ethynyl-thiazol-2-ylamine | 1.675 mmol, 0.255 g | C(C)C=1N=C(SC1C#C)N | C7H8N2S
solvent | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd on charcoal | 0.125 g | [Pd] | Pd
product | 4,5-Diethyl-thiazol-2-ylamine | 0.184 g | C(C)C=1N=C(SC1CC)N | C7H12N2S
